US07662974B2
Preparation of ethyl 3-(4-nitrophenyl)-3-oxopropanoate
Under nitrogen atmosphere, 30 mL of THF was added to 6.09 g (10 mmol, 1.0 equivalent) of (BrZnCH2COOEt.THF)2. Under argon atmosphere, a solution of 1.48 g (10 mmol) of p-nitrobenzonitrile in 10 mL of THF was added dropwise while stirring at 0˜5° C. The mixture was stirred at 20˜25° C. for 21 hours. 15 mL of 10% hydrochloric acid was added dropwise at 20° C. or lower, and the mixture was stirred at 20˜25° C. for 2 hours, followed by dilution with 50 mL of ethyl acetate. Then, the layers were separated. The organic layer was washed successively with 15 mL of 1N hydrochloric acid, 20 mL of an aqueous saturated sodium chloride solution, 20 mL (×2) of an aqueous saturated sodium bicarbonate solution, and 20 mL of an aqueous saturated sodium chloride solution. After washing, the organic layer was dried with anhydrous magnesium sulfate. After concentration under reduced pressure, crystals were loosened with n-hexane, filtered, and washed with n-hexane. After vacuum drying (40° C.), 2.09 g of the desired product was obtained (yield 88%).

reactant | BrZnCH2COOEt | Br[Zn]CC(=O)OCC
reactant | p-nitrobenzonitrile | 10 mmol, 1.48 g | [N+](=O)([O-])C1=CC=C(C#N)C=C1 | C7H4N2O2
reactant | hydrochloric acid | 15 mL | Cl | ClH
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | ethyl 3-(4-nitrophenyl)-3-oxopropanoate | 2.09 g, yield 88% | [N+](=O)([O-])C1=CC=C(C=C1)C(CC(=O)OCC)=O | C11H11NO5
